US05059238
Synthesis of methyl 2-[(4,6-dimethoxy-1,3,5-triazin-2-yl)aminocarbonylaminosulfonyl]-4-[(2,2,2-trifluoroethylidene)hydrazino]benzoate (Compound No. I-20)
At room temperature, 166 mg (0.5 mmol) of methyl 2-(aminosulfonyl)-4-[(2,2,2-trifluoroethlidene)hydrazino]-benzoate and 138 mg (0.5 mmol) of phenyl (4,6-dimethoxy-1,3,5-triazin-2-yl)carbamate were dissolved in 1.5 ml of N,N-dimethylacetamide. Then, 86.1 mg of 1,8-diazabicyclo[5.4.0]undec-7-ene were added, followed by stirring for 5 minutes. The resultant mixture was allowed to stand for 6 hours. Thereafter, 0.2 ml of 35% hydrochloric acid was added to 30 ml of ice water, followed by the addition of the reaction mixture in 0.2 ml portions under stirring. After the reaction mixture was stirred for 20 minutes, the resulting precipitate was collected by filtration and dried in air. Using as an eluent a 1:9 mixed solvent of methyl acetate and benzene, the crude product was purified by chromatography on a column of silica gel ("WAKO GEL C-300", trade name; product of Wako Pure Chemical Industries, Ltd.). The title compound was obtained as a white solid. Yield: 103 mg (41%). Melting point: 117°-119° C. (foamed). Its physicochemical properties are shown in Table 4.

reactant | methyl 2-(aminosulfonyl)-4-[(2,2,2-trifluoroethlidene)hydrazino]-benzoate | 0.5 mmol, 166 mg | NS(=O)(=O)C1=C(C(=O)OC)C=CC(=C1)NN=CC(F)(F)F | C10H10F3N3O4S
reactant | phenyl (4,6-dimethoxy-1,3,5-triazin-2-yl)carbamate | 0.5 mmol, 138 mg | COC1=NC(=NC(=N1)OC)NC(OC1=CC=CC=C1)=O | C12H12N4O4
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 86.1 mg | N12CCCCCC2=NCCC1 | C9H16N2
reactant | hydrochloric acid | 0.2 ml | Cl | ClH
solvent | N,N-dimethylacetamide | 1.5 ml | CN(C(C)=O)C | C4H9NO
product | methyl 2-[(4,6-dimethoxy-1,3,5-triazin-2-yl)aminocarbonylaminosulfonyl]-4-[(2,2,2-trifluoroethylidene)hydrazino]benzoate | COC1=NC(=NC(=N1)OC)NC(=O)NS(=O)(=O)C1=C(C(=O)OC)C=CC(=C1)NN=CC(F)(F)F | C16H16F3N7O7S
